US05558853
Emulsions of dodecafluoropentane (boiling point 28°-29° C.), a mixture of dodecafluoropentane and decafluorobutane with a boiling point of 20.0° C., and perfluorocyclopentane (boiling point of 22.5° C.) were formed and their echogenicity tested. The emulsions contained Fluorad 170 C as surfactant and were formed by applying acoustic energy from a waterbath sonicator. Echogenicity was tested by adding 0.2 mL of each emulsion to 1000 mL of water at 37° C. through a 1.2 micron filter and measuring the videodensity by the methods described in Example 1. The emulsion containing dodecafluoropentane produced a grayscale intensity six seconds following administration of 58.5 units (background of 2.9), the mixture of fluorocarbons produced an increase of 3.0 to 133.3 under the same conditions, and the perfluorocyclopentane produced the greatest increase, of from 3.6 to 158.9. Thus, the lower boiling fluorocarbons produced greater echogenicity than the higher boiling fluorocarbons.

reactant | dodecafluoropentane | FC(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F | C5F12
reactant | decafluorobutane | FC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C4F10
product | perfluorocyclopentane | FC1(C(C(C(C1(F)F)(F)F)(F)F)(F)F)F | C5F10
